US09085581B2
To a solution of (R)-methyl 5-(benzyloxy)-3-(5-(triisopropylsilyloxy)-1H-indol-2-yl)pentanoate (52.5 g, 103 mmol in EtOAc (150 mL) was added 10% Pd/C (wet, 15 g) and placed in a Parr shaker under 45 psi of hydrogen for 2.5 h (dropped 10 psi during the 2.5 h). The mixture was filtered through celite and concentrated to give (R)-methyl 5-hydroxy-3-(5-(triisopropylsilyloxy)-1H-indol-2-yl)pentanoate (47.6 g, 93 mmol, 92% yield) as a viscous yellow oil. Exact mass calculated for C23H37NO4Si: 419.2, found: LCMS m/z=420.3, [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 1.11 (d, J=7.2 Hz, 18 H), 1.27 (m, 3 H), 1.97 (m, 2 H), 2.75 (m, 2 H), 3.49 (m, 1 H), 3.69 (m, 5 H), 6.13 (d, J=2.0 Hz, 1 H), 6.73 (dd, J1=8.6, J2=2.3 Hz, 1 H), 6.99 (d, J=2.3 Hz, 1 H), 7.21 (d, J=8.6 Hz, 1 H), 8.58 (bs, 1 H).

reactant | (R)-methyl 5-(benzyloxy)-3-(5-(triisopropylsilyloxy)-1H-indol-2-yl)pentanoate | C(C1=CC=CC=C1)OCC[C@H](CC(=O)OC)C=1NC2=CC=C(C=C2C1)O[Si](C(C)C)(C(C)C)C(C)C | C30H43NO4Si
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 15 g | [Pd] | Pd
product | (R)-methyl 5-hydroxy-3-(5-(triisopropylsilyloxy)-1H-indol-2-yl)pentanoate | 93 mmol, 47.6 g, 92% yield | OCC[C@H](CC(=O)OC)C=1NC2=CC=C(C=C2C1)O[Si](C(C)C)(C(C)C)C(C)C | C23H37NO4Si
